US06699861B1
tert-Butyl 4-[N-[7-Chloro-2-methanesulphonyloxymethyl-4-oxo-3,4-dihydroquinazolin-6-ylmethyl]-N-(prop-2-ynyl)amino]benzoate
To a solution of tert-butyl 4-[N-[7-chloro-2-hydroxymethyl-4-oxo-3,4-dihydroquinazolin-6-ylmethyl]-N-(prop-2-ynyl)amino]benzoate (0.250 g, 0.55 mmol) in anhydrous DMF (6 ml) under argon was added methanesulphonic anhydride (0.191 g, 1.10 mmol) followed immediately by triethylamine (0.27 ml, 1.93 mmol). The clear solution was stirred at room temperature for 45 min then it was partitioned between ethyl acetate (200 ml) and saturated aqueous sodium bicarbonate (60 ml). The organic layer was washed with more saturated aqueous sodium bicarbonate (60 ml), brine (60 ml), dried (Na2SO4) and concentrated in vacuo. Purification by column chromatography on elution with 40% ethyl acetate in dichloromethane afforded a white solid (0.212 g, 73%), mp 178-181° C. 1H-NMR (DMSO-d6): 1.49 (s, 9H, CO2But), 3.23 (s, 1H, C≡CH), 3.20 (s, 3H, SO2Me), 4.39 (s, 2H, CH2C≡C), 4.78 (s, 2H, 6-CH2), 5.11 (s, 2H, 2-CH2), 6.78 (d, J=9.0 Hz, 2H, 3′,5′-ArH), 7.72 (d, J=8.8 Hz, 2H, 2′,6′-ArH), 7.85, 7.88 (2×s, 2H, 5-H, 8-H); MS (ESI, m/z) 554, 556 [(M+Na)+, 100%, 38% respectively; Cl isotopic pattern].

reactant | tert-butyl 4-[N-[7-chloro-2-hydroxymethyl-4-oxo-3,4-dihydroquinazolin-6-ylmethyl]-N-(prop-2-ynyl)amino]benzoate | 0.55 mmol, 0.250 g | ClC1=C(C=C2C(NC(=NC2=C1)CO)=O)CN(CC#C)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C24H24ClN3O4
reactant | methanesulphonic anhydride | 1.10 mmol, 0.191 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | triethylamine | 1.93 mmol, 0.27 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | tert-Butyl 4-[N-[7-Chloro-2-methanesulphonyloxymethyl-4-oxo-3,4-dihydroquinazolin-6-ylmethyl]-N-(prop-2-ynyl)amino]benzoate | 0.212 g, 73% | ClC1=C(C=C2C(NC(=NC2=C1)COS(=O)(=O)C)=O)CN(CC#C)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C25H26ClN3O6S
